Name:  ___                Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: SURGERY
 
Allergies: 
fish oil / shellfish derived
 
Attending: ___.
 
Chief Complaint:
Aneurysm of abdominal aorta and right common iliac artery
 
Major Surgical or Invasive Procedure:
___ open repair of aneurysm of abdominal aorta and right 
common iliac artery repair

 
History of Present Illness:
Mr. ___ is a ___ male with history of diabetes, high 
cholesterol, hypertension, 4.5cm abdominal aortic aneurysm and 
4cm right common iliac artery aneurysm.  Because of extensive 
atheroma within the lumen of the aorta
extending from the visceral segment of the aorta down into his
bilateral common iliac artery aneurysm, he was thought to be too 
high risk for an endovascular approach and was thus consented 
for an open repair.  In preparation for this, Mr. ___ 
underwent coronary revascularization in ___.  He 
presents today routinely as scheduled for elective repair.
 
Past Medical History:
CAD s/p DES in ___, on DAPT
Non-insulin-dependent diabetes, 
high cholesterol, 
hypertension, 
chronic kidney disease stage IIIA
 
Social History:
___
Family History:
Includes coronary artery disease, myocardial
infarction, diabetes and blood clots.
 
Physical Exam:
98.1 PO, 136/77, 91, 20, 98% Ra 
General: Mr. ___ is a well developed male in no acute 
distress
HEENT: Head is atraumatic, normocephalic.  Mucous membranes are 
moist.  Sclerae are anicteric.  Neck is supple.  Trachea is 
midline.
HEART: normal S1, S2
LUNGS: clear to auscultation
ABDOMEN: Mildine incision well approximated with staples.  Soft, 
non tender, non distended.  No organomegaly.  Bowel sounds in 
all 4 quadrants.
LOWER EXTREMITIES: Bilateral lower extremities are warm and well 
perfused with easily palpable femoral, popliteal, ___ and DP 
pulses.  There is no edema or cyanosis.  Skin is intact.
 
Pertinent Results:
___ 05:00AM BLOOD WBC-9.3 RBC-3.39* Hgb-9.8* Hct-29.8* 
MCV-88 MCH-28.9 MCHC-32.9 RDW-13.6 RDWSD-43.8 Plt ___
___ 05:00AM BLOOD Glucose-83 UreaN-16 Creat-1.1 Na-143 
K-4.0 Cl-107 HCO3-22 AnGap-14
___ 05:00AM BLOOD Calcium-8.3* Phos-2.5* Mg-2.1
___ 11:12AM BLOOD pO2-194* pCO2-46* pH-7.24* calTCO2-21 
Base XS--7
___ 11:12AM BLOOD Glucose-171* Lactate-3.1* Na-136 K-4.4 
Cl-108 calHCO3-19*
 
Brief Hospital Course:
Mr. ___ underwent open repair of abdominal aorta and right 
common iliac artery on ___.  He tolerated the procedure well 
and was admitted to the hospital post operatively.  He was 
monitored closely and transferred to the vascular surgical floor 
in stable condition.  He remained hemodynamically stable.  

On POD 2, his diet was advanced to clear liquids.  He tolerated 
it well.  Once he started passing flatus, he was advanced to a 
regular diet and tolerated diet well. He moved his bowels once 
on POD 4.

On POD 2, his foley was removed and he was able to void 
sufficient amounts of clear yellow urine without difficulty.

On POD 4, his home Plavix was restarted.  At time of discharge, 
he was hemodynamically stable.  His incision appeared benign.  
He was ambulating ad lib and tolerating activity well and 
voiding sufficient amounts of clear yellow urine.  Discharge 
teaching reviewed.  He agrees to call clinic with any questions 
or concerns.
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Atorvastatin 40 mg PO QPM 
2. Clopidogrel 75 mg PO DAILY 
3. Lisinopril 20 mg PO DAILY 
4. MetFORMIN (Glucophage) 500 mg PO BID 
5. Metoprolol Succinate XL 25 mg PO DAILY 
6. Pregabalin 100 mg PO TID 
7. Aspirin 81 mg PO DAILY 
8. Vitamin D 1000 UNIT PO DAILY 
9. cinnamon bark 1000 mg oral daily 
10. Cyanocobalamin 50 mcg PO DAILY 

 
Discharge Medications:
1.  Acetaminophen 1000 mg PO TID 
RX *acetaminophen 500 mg 2 tablet(s) by mouth every 8 hours Disp 
#*120 Tablet Refills:*0 
2.  Metoprolol Succinate XL 25 mg PO DAILY  
3.  OxyCODONE (Immediate Release) ___ mg PO Q4H:PRN Pain - 
Moderate 
RX *oxycodone 5 mg ___ tablet(s) by mouth every 8 hours as 
needed Disp #*20 Tablet Refills:*0
RX *oxycodone 5 mg ___ tablet(s) by mouth every 8 hours as 
needed Disp #*12 Tablet Refills:*0 
4.  Polyethylene Glycol 17 g PO DAILY:PRN Constipation - Second 
Line 
RX *polyethylene glycol 3350 [Miralax] 17 gram/dose 1 powder(s) 
by mouth daily Refills:*0 
5.  Senna 8.6 mg PO BID:PRN Constipation - First Line 
RX *sennosides 8.6 mg ___ tabs by mouth BID as needed Disp #*60 
Tablet Refills:*0 
6.  Aspirin 81 mg PO DAILY  
7.  Atorvastatin 40 mg PO QPM  
8.  cinnamon bark 1000 mg oral daily  
9.  Clopidogrel 75 mg PO DAILY  
10.  Cyanocobalamin 50 mcg PO DAILY  
11.  Lisinopril 20 mg PO DAILY  
12.  MetFORMIN (Glucophage) 500 mg PO BID  
13.  Pregabalin 100 mg PO TID  
14.  Vitamin D 1000 UNIT PO DAILY  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Tobacco use
Aneurysm of abdominal aorta and right common iliac aortas/p open 
repair
CKD II
DM II
Hyperlipidemia
Hypertension

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Mr. ___,

You were admitted to the hospital after undergoing repair of an 
aneurysm in your aorta and common iliac artery.  You tolerated 
the procedure well and you are now ready to be discharged home.  
Please follow the instructions below for a speedy recovery.

You should not lift anything > 5 lbs until your follow up 
appointment.

You have staples in your skin.  These will be removed at your 
follow up appointment.  You can leave your incision open to air. 
 If your incision drains anything, you can cover it with a dry 
sterile bandage and replace this daily.

It is very important that you stop smoking.  Smoking cigarettes 
is associated with atherosclerotic disease of the arteries and 
several cancers.  Please follow up with your PCP to discuss this 
further.

Your medications have been carefully reviewed and no changes 
were deliberately made.  You should resume your home medication 
regimen. 

Use pain medicine sparingly.  NEVER DRIVE WHILE ON A NARCOTIC.  
You may take Tylenol every 8 hours.  Remember that some over the 
counter medications contain Tylenol (Acetaminophen).  Make sure 
you keep your daily total to less than 3000mg.  
 
Followup Instructions:
___